US05635477
Part B--A solution of 1-tetralon-7-carboxylic acid methyl ester (3.50 g, 0.017 mol), trimethylsilylcyanide (1.98 g, 0.02 mol) and zinc iodide (0.10 g) in benzene 5 (20 mL) was stirred at ambient temperature over 15 hours. Then added, sequentially and dropwise, was pyridine (20 mL) and phosphorous oxychloride (4.0 mL, 6.55 g, 0.0425 mol). The reaction mixture was stirred at reflux over 1 hour then evaporated to dryness under reduced pressure. The residue was taken up in chloroform, backwashed with water, dried over anhydrous magnesium sulfate and evaporated to dryness under reduced pressure to give methyl 8-cyano-5,6-dihydro-2-naphthoate (1.70 g, 0.008 mol, 47%) as a yellow solid. mp=73°-75° C.; 1H NMR (CDCl3) d 8.0-7,9 (m, 1H), 7.3-7.2 (m, 1H), 6.95 (t, 1H, J=4.8 Hz), 3.95 (s, 3H), 2.9 (t, 2H, J=8.3 Hz), 2.6-2.4 (m, 3H)

reactant | 1-tetralon-7-carboxylic acid methyl ester | 0.017 mol, 3.50 g | COC(=O)C1=CC=C2CCCC(C2=C1)=O | C12H12O3
reactant | trimethylsilylcyanide | 0.02 mol, 1.98 g | C[Si](C)(C)C#N | C4H9NSi
reactant | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
reactant | phosphorous oxychloride | 0.0425 mol, 4.0 mL, 6.55 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | 4-carboxyphenylbutyric acid | 20 mL | C(=O)(O)C1=CC=C(C=C1)C(C(=O)O)CC | C11H12O4
catalyst | zinc iodide | 0.10 g | [I-].[Zn+2].[I-]
product | methyl 8-cyano-5,6-dihydro-2-naphthoate | 0.008 mol, 1.70 g, 47% | C(#N)C1=CCCC=2C=CC(=CC12)C(=O)OC | C13H11NO2
